US05866567
(3aR*,10aS*)-4-(Phthalimidoacetyl)-9-[4-[3-(4-pyridylmethyl)ureido]benzyl]-2,3,3a,4,9,10a-hexahydro-benzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
To a solution of (3aR*,10aS*)-4-(Chloroacetyl)-9-[4-(phenoxycarbonylamino)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (151 mg, 0.3 mmol) in DMF (1.5 mL) was added 4-(aminomethyl)pyridine (30 μL, 0.3 mmol) and the mixture was stirred at room temperature for 44 hours. This reaction mixture was diluted with ethyl acetate and water, and the aqueous layer was extracted with 2 portions of ethyl acetate. The pooled organic layer was washed with water and saturated aqueous NaCl solution, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was dissolved in DMF (2 mL) and after addition of potassium phthalimide (55 mg, 0.3 mmol), the mixture was stirred at room temperature for 90 hours. This reaction mixture was diluted with water and ethyl acetate and the aqueous layer was separated. The organic layer was washed with water and saturated aqueous NaCl solution, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol=20:1) to provide 33 mg (yield 17%) of the title compound. Amorphous.

reactant | (3aR*,10aS*)-4-(Chloroacetyl)-9-[4-(phenoxycarbonylamino)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 0.3 mmol, 151 mg | ClCC(=O)N1C2=C(N(C([C@@H]3[C@H]1CCC3)=O)CC3=CC=C(C=C3)NC(=O)OC3=CC=CC=C3)C=CC=C2 | C28H26ClN3O4
reactant | 4-(aminomethyl)pyridine | 0.3 mmol, 30 μL | NCC1=CC=NC=C1 | C6H8N2
reactant | potassium phthalimide | 0.3 mmol, 55 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (3aR*,10aS*)-4-(Phthalimidoacetyl)-9-[4-[3-(4-pyridylmethyl)ureido]benzyl]-2,3,3a,4,9,10a-hexahydro-benzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 33 mg, yield 17% | C1(C=2C(C(N1CC(=O)N1C3=C(N(C([C@@H]4[C@H]1CCC4)=O)CC4=CC=C(C=C4)NC(=O)NCC4=CC=NC=C4)C=CC=C3)=O)=CC=CC2)=O | C36H32N6O5
